US03940489
1-(2-nitro-4-chlorophenoxy)-2-hydroxy-3-tert.-butylamino propane was hydrogenated in the presence of Raney-nickel in methanol to obtain 1-(2-amino-4-chlorophenoxy)-2-hydroxy-3-tert.-butylamino propane dihydrochloride having a melting point of 260° - 262°C.

reactant | 1-(2-nitro-4-chlorophenoxy)-2-hydroxy-3-tert.-butylamino propane | [N+](=O)([O-])C1=C(OCC(CNC(C)(C)C)O)C=CC(=C1)Cl | C13H19ClN2O4
solvent | methanol | CO | CH4O
catalyst | Raney-nickel | [Ni] | Ni
product | 1-(2-amino-4-chlorophenoxy)-2-hydroxy-3-tert.-butylamino propane dihydrochloride | Cl.Cl.NC1=C(OCC(CNC(C)(C)C)O)C=CC(=C1)Cl | InChI=1S/C13H21ClN2O2.2ClH/c1-13(2,3)16-7-10(17)8-18-12-5-4-9(14)6-11(12)15;;/h4-6,10,16-17H,7-8,15H2,1-3H3;2*1H
